* Transistors
Q1 2 8 7 NPN
Q2 4 3 7 PNP
Q3 3 5 6 PNP
* Diodes
D1 5 3 D
D2 6 7 D
* Resistors
R1 5 5 Res
R2 7 8 Res
* Current Sources
I_C1 8 2 DC 0
I_C2 4 6 DC 0
? Missing component
* Voltage Sources
VCC 6 5 DC VCC
Vi 8 5 DC Vi
* Load Resistor
RL 7 5 Res
